Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]1[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-2.7567472167
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.70140936028
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]#[C:8][C:9]([H:10])[H:11].[H:7],3.0056788347900003
[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.89287658699
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],3.76472842418
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.5210947198700002
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.61044227772
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10]>>[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[O:8][C:9][H:10].[O:1],3.46547443234
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[H:8]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:8].[H:3],1.92423012697
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.38524829233
[H:1][C:2]1([H:3])[C:4][O:5][C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],2.32510658942
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.78691312545
[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:1].[O:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],0.640985842178
[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.0174926062400003
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],1.4917561794999998
[C:6]([H:7])([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],0.71895707757
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.37645874139
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2][O:3][C:4][O:6][C:7][H:8].[H:5],4.22017880809
[C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.49771367947
[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-2.50401369678
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6],1.385628162
[O:1]=[C:2]([H:3])[C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3],3.4412812143
[C:10]([H:12])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:11]#[C:13][H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-1.58053486526
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14],4.50754757678
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9]>>[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][C:2]#[C:3],6.057425951950001
[C:4]#[C:5][C:6][O:7][H:8].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6][O:7][H:8],-5.991923641869999
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]([H:5])[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.71137160813
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:4],2.06883621566
